US05616596
Preparation of N-[3-(5-{2-[3-pyridyl]ethenyl}fur-2-yl)-1-methyl-2-propynyl]-N-hydroxyurea.
To a stirred solution of 2-iodo-5-[2-{3-pyridyl}ethenyl]furan (1.4 g, 4.7 mmol), prepared as in step 5, and N-hydroxy-N-(butyn-2-yl)urea (0.64 g, 5 mmol), prepared as in step 2, in diethylamine (10 mL) was added dimethylformamide (1 mL), triphenylphosphine (0.026 g, 0.1 mmol), cuprous iodide (5 mg, 25 mmol) and bis(acetonitrile)palladium(II) chloride (13 mg, 50 mmol). The mixture was stirred overnight at ambient temperature. Aqueous NH4OH was added and the mixture extracted thoroughly with CH2Cl2. The combined organic layer was washed with brine, dried (MgSO4) and evaporated under reduced pressure. The resulting residue was purified by column chromatography on silica gel eluting with 5% MeOH--CH2Cl2 to afford an off-white solid. Recrystallization from ethyl acetate-hexanes gave 530 mg of the title compound. m.p. 166° C. 1H NMR (DMSO-d6, 300 MHz) δ1.38 (d, J=7 Hz, 3H), 5.19 (q, J=7 Hz, 1H), 6.61 (bs, 2H), 6.82 (d, J=3 Hz, 1H), 6.82 (d, J=3 Hz, 1H), 7.09 (d, J=16 Hz, 1H), 7.25 (d, J=16 Hz, 1H), 7.39 (m, 1H), 7.77 (m, 1H), 8.03 (m, 1H), 8.45 (m, 1H), 8.77 (m, 1H), 9.43 (s, 1H). MS (DCI/NH3) m/e 298 (M+H)+. Anal calcd for C16H15N3O3 : C, 64.63; H, 5.08; N, 14.13. Found: C, 64.01; H, 5.09; N, 14.06.

reactant | 2-iodo-5-[2-{3-pyridyl}ethenyl]furan | 4.7 mmol, 1.4 g | IC=1OC(=CC1)C=CC=1C=NC=CC1 | C11H8INO
reactant | N-hydroxy-N-(butyn-2-yl)urea | 5 mmol, 0.64 g | ON(C(=O)N)C(C)C#C | C5H8N2O2
reactant | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
reactant | NH4OH | [NH4+].[OH-]
solvent | diethylamine | 10 mL | C(C)NCC | C4H11N
catalyst | bis(acetonitrile)palladium(II) chloride | 50 mmol, 13 mg | CC#N.CC#N.Cl[Pd]Cl
catalyst | triphenylphosphine | 0.1 mmol, 0.026 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | N-[3-(5-{2-[3-pyridyl]ethenyl}fur-2-yl)-1-methyl-2-propynyl]-N-hydroxyurea | 530 mg | N1=CC(=CC=C1)C=CC1=CC=C(O1)C#CC(C)N(C(=O)N)O | C16H15N3O3
